US07078405B2
6-Chloro-4-(4-methoxy-2-methylphenyl)-3-pyridazineamine
4-Bromo-6-chloro-3-pyridazineamine (12 g) and 4-methoxy-2-methylphenylboronic acid (10.5 g) were dissolved in a mixed solvent of toluene (240 mL) and ethanol (45 mL), then tetrakistriphenylphosphine palladium complex (6.7 g) and a 2M aqueous sodium carbonate solution (24 mL) were added thereto, and the mixture was heated under stirring at 100° C. for 12 hours. After completion of the reaction, the solvent was evaporated. The residue was extracted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:4) to give the title compound (7.89 g) as brown crystals.

reactant | 4-Bromo-6-chloro-3-pyridazineamine | 12 g | BrC1=C(N=NC(=C1)Cl)N | C4H3BrClN3
reactant | 4-methoxy-2-methylphenylboronic acid | 10.5 g | COC1=CC(=C(C=C1)B(O)O)C | C8H11BO3
reactant | sodium carbonate | 2M, 24 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 240 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 6-Chloro-4-(4-methoxy-2-methylphenyl)-3-pyridazineamine | 7.89 g | ClC1=CC(=C(N=N1)N)C1=C(C=C(C=C1)OC)C | C12H12ClN3O
